US06350749B1
To a mixture of 5-(2,5-dichlorothiophen-3-yl)-1-[2-(4-methoxyphenylsulfonyl)hydrazino]cyclohexen-3-one (1.79 g), anhydrous potassium carbonate (0.718 g) and methanol (30 ml) was added under ice-cooling 1-bromobutan-2-one (0.785 g), and the mixture was stirred at room temperature for 2 hours. To the mixture was added anhydrous potassium carbonate (1.2 g), and the mixture was stirred for 2 hours. Under reduced pressure, the solvent was evaporated, and the residue was extracted with ethyl acetate. The organic layer was concentrated, and the residue was purified with silica gel column chromatography to give 7-(2,5-dichlorothiophen-3-yl)-4-ethyl-5,6,7,8-tetrahydrocinnolin-5-one (0.26 g) as oil.

reactant | 5-(2,5-dichlorothiophen-3-yl)-1-[2-(4-methoxyphenylsulfonyl)hydrazino]cyclohexen-3-one | 1.79 g | ClC=1SC(=CC1C1CC(C=C(C1)NNS(=O)(=O)C1=CC=C(C=C1)OC)=O)Cl | C17H16Cl2N2O4S2
reactant | potassium carbonate | 0.718 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromobutan-2-one | 0.785 g | BrCC(CC)=O | C4H7BrO
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 30 ml | CO | CH4O
product | 7-(2,5-dichlorothiophen-3-yl)-4-ethyl-5,6,7,8-tetrahydrocinnolin-5-one | 0.26 g | ClC=1SC(=CC1C1CC(C=2C(=CN=NC2C1)CC)=O)Cl | C14H12Cl2N2OS
